US05106942
A mixture of 4-(bis(phenylmethyl)amino]benzaldehyde (60.2 g, 0.20 mol), methyl cyanoacetate (21.8 g, 0.22 mol), methanol (300 mL), and piperidine (10 drops) is heated at reflux for 1.5 hours. After cooling, the yellow product is collected by filtration, washed with methanol, and dried in air. The yellow colorant, methyl 3-[4-[bis(phenylmethyl)amino]phenyl]-2-cyano-propenoate, is obtained in a yield of 53.5 g (70.0% of theory).

reactant | 4-(bis(phenylmethyl)amino]benzaldehyde | 0.20 mol, 60.2 g | C1(=CC=CC=C1)CN(C1=CC=C(C=O)C=C1)CC1=CC=CC=C1 | C21H19NO
reactant | methyl cyanoacetate | 0.22 mol, 21.8 g | C(#N)CC(=O)OC | C4H5NO2
catalyst | piperidine | 10 drops | N1CCCCC1 | C5H11N
solvent | methanol | 300 mL | CO | CH4O
product | methyl 3-[4-[bis(phenylmethyl)amino]phenyl]-2-cyano-propenoate | C1(=CC=CC=C1)CN(C1=CC=C(C=C1)C=C(C(=O)OC)C#N)CC1=CC=CC=C1 | C25H22N2O2
